US09120823B2
To a mixture of 2-(3-ethylsulfanyl-5-trifluoromethylpyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.61 g) and chloroform (10 ml) was added m-chloroperbenzoic acid (purity: not less than 65%) (0.66 g) while ice-cooling, and the mixture was stirred at room temperature for 10 hours. To the reaction mixture were added aqueous 10% sodium thiosulfate solution and saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 2-(3-ethylsulfonyl-5-trifluoromethylpyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.62 g), which is hereinafter referred to as “the present compound 5”.

reactant | 2-(3-ethylsulfanyl-5-trifluoromethylpyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.61 g | C(C)SC=1C(=NC=C(C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H12F6N4S
reactant | m-chloroperbenzoic acid | 0.66 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-ethylsulfonyl-5-trifluoromethylpyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.62 g | C(C)S(=O)(=O)C=1C(=NC=C(C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H12F6N4O2S
